US07262201B1
Using an analogous procedure to that described for Example 1, 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (134 mg, 0.5 mmol) was reacted with 3-phenyl-4,5-dihydro-1H-pyrazol-5-one (160 mg, 1 mmol), (J. Org. Chem., 1967, 32, 3321-3324), in the presence of sodium hydride (40 mg, 1 mmol, prewashed with THF) in DMF (3 ml) to give 6-methoxy-7-(2-methoxyethoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline as the free base. The free base was dissolved in a mixture of methylene chloride/methanol (1/1) and 3M hydrochloric acid in methanol was added. The volatiles were removed by evaporation to give 6-methoxy-7-(2-methoxyethoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline hydrochloride (155 mg, 72%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.5 mmol, 134 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 3-phenyl-4,5-dihydro-1H-pyrazol-5-one | 1 mmol, 160 mg | C1(=CC=CC=C1)C1=NNC(C1)=O | C9H8N2O
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(2-methoxyethoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline | COC=1C=C2C(=NC=NC2=CC1OCCOC)OC1=NNC(=C1)C1=CC=CC=C1 | C21H20N4O4
